US06362177B1
A mixture of 4-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethoxybenzoyl)glycyl}aminomethyl]piperidine (0.050 mmol), 4-bromobenzyl bromide (0.060 mmol), piperidinomethylpolystyrene (60 mg), acetonitrile (0.8 mL) and chloroform (0.5 mL) was stirred at 60° C. for 12 h. The reaction mixture was cooled, loaded onto Varian™ SCX column and washed with 50% CHCl3/CH3OH (10 mL) and CH3OH (10 mL). Product was eluted using 2 N NH3 in CH3OH (5 mL) and concentrated. To the resulting material was added 4 N HCl in 1,4-dioxane (2 mL), and the solution was stirred overnight at room temperature. Concentration and preparative TLC afforded 4-[{N-(2-amino-5-trifluoromethoxybenzoyl)glycyl}aminomethyl]-1-(4-bromobenzyl)piperidine (Compound No. 1910) (6.5 mg, 24%): The purity was determined by RPLC/MS (96%); ESI/MS m/e 545 (M++H, C23H26BrF3N4O3).

reactant | 4-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethoxybenzoyl)glycyl}aminomethyl]piperidine | 0.050 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C=C1)OC(F)(F)F | C21H29F3N4O5
reactant | 4-bromobenzyl bromide | 0.060 mmol | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | acetonitrile | 0.8 mL | C(C)#N | C2H3N
solvent | chloroform | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[{N-(2-amino-5-trifluoromethoxybenzoyl)glycyl}aminomethyl]-1-(4-bromobenzyl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC=C(C=C2)Br)C=C(C=C1)OC(F)(F)F | C23H26BrF3N4O3
